US07713994B2
(Z)-4-(((6-Bromo-5-propoxypyridin-2-yl)methylamino)methylene)-6-iodoisoquinoline-1,3(2H,4H)-dione
A mixture of (E)-6-iodo-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione (329 mg, 1.0 mmole), dimethylformamide (8 mL), and (6-bromo-5-propoxypyridin-2-yl)methanamine (245 mg, 1.0 mmole) is stirred at room temperature for one hour. The reaction mixture is diluted with acetonitrile, filtered, washed with fresh acetonitrile and dried to give a yellow solid, 434 mg, (80%), mp 251-3° C. dec; MS (ES−): m/z 540.2 (M−H).

reactant | (E)-6-iodo-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione | 1.0 mmole, 329 mg | IC=1C=C2\C(\C(NC(C2=CC1)=O)=O)=C/OC | C11H8INO3
reactant | dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
reactant | (6-bromo-5-propoxypyridin-2-yl)methanamine | 1.0 mmole, 245 mg | BrC1=C(C=CC(=N1)CN)OCCC | C9H13BrN2O
solvent | acetonitrile | C(C)#N | C2H3N
product | (Z)-4-(((6-Bromo-5-propoxypyridin-2-yl)methylamino)methylene)-6-iodoisoquinoline-1,3(2H,4H)-dione | BrC1=C(C=CC(=N1)CN\C=C\1/C(NC(C2=CC=C(C=C12)I)=O)=O)OCCC | C19H17BrIN3O3
